US07230098B2
A mixture of (+)-carbobenzyloxy-D-proline (1.5 g, 6 mmol), EDC (2.3 g, 12 mmol), HOBt (800 mg, 6 mmol), TEA (1.5 mL) and pyrrolidine (853 mg, 12 mmol) in DMF (20 mL) was stirred at rt for 18 hr. The reaction was diluted with water and sodium bicarbonate, extracted with dichloromethane (3×). The combined DCM was concentrated and purified on a silica gel column to give (R)-2-(pyrrolidine-1-carbonyl)-pyrrolidine-1-carboxylic acid benzyl ester. (R)-2-(pyrrolidine-1-carbonyl)-pyrrolidine-1-carboxylic acid benzyl ester was hydrogenated using Pd/C in methanol at ambient temperature for 20 hr to provide pyrrolidin-1-yl-(R)-pyrrolidin-2-yl-methanone. To a solution of pyrrolidin-1-yl-(R)-pyrrolidin-2-yl-methanone (1.2 g, 7.1 mmol) in THF (10 mL) at 0° C. was added B2H6 (10 mL, 10 mmol). The mixture was heated to reflux for 16 hr. The reaction was acidified with HCl and concentrated. The residue was basified to pH 10 with 2N NaOH and extracted with 5% methanol in DCM. The organic layer was concentrated and purified on a silica gel column to give 800 mg (73%) of (R)-2-pyrrolidin-1-ylmethyl-pyrrolidine.

reactant | (+)-carbobenzyloxy-D-proline | 6 mmol, 1.5 g | C(=O)(OCC1=CC=CC=C1)N1[C@@H](C(=O)O)CCC1 | C13H15NO4
reactant | EDC | 12 mmol, 2.3 g
reactant | HOBt | 6 mmol, 800 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | pyrrolidine | 12 mmol, 853 mg | N1CCCC1 | C4H9N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (R)-2-(pyrrolidine-1-carbonyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)N1CCCC1 | C17H22N2O3
